US08877925B2
Preparation of 2,6-dichloro-5-methoxy-4-allyl pyrimidine
2,6-Dichloro-5-methoxy-6-allyl pyrimidine may be prepared using 2,6-dichloro-5-methoxy pyrimidine, which is commercially available. 2,6-Dichloro-5-methoxy pyrimidine (3.0 g, 17 mmol) was dissolved in THF (30 mL) and treated in portions with allyl magnesium bromide (17 mL of 1M allyl magnesium bromide in diethyl ether, 17 mmol). The resulting reaction was exothermic. External cooling was used to keep the temperature of the mixture below 30° C. After 20 minutes, the mixture was subjected to HPLC and GC-MS. After 45 minutes, the mixture was cooled in ice/salt and the reaction quenched with saturated ammonium chloride (30 mL) then diluted with ethyl acetate (75 mL). The organic phase was washed with saturated sodium chloride (30 mL), dried, and evaporated. The residue was dissolved in 1,4-dioxane (50 mL), treated with DDQ (3.9 g, 17 mmol), and stirred for 20 h. GC-MS showed presence of 2,6-dichloro-5-methoxy-6-allyl pyrimidine (having molar weight of 218 g/mol). The residue was washed in water and ethyl acetate and purified by column chromatography using silica with ethyl acetate and hexane. This provided the title compound (2.5 g, 67% yield): mp 61-62° C. 1H NMR (400 MHz, CDCl3) δ 6.07-5.94 (m, 1H), 5.26-5.16 (m, 2H), 3.94-3.89 (s, 3H), 3.65-3.56 (m, 2H)); EIMS m/z 218.

reactant | 2,6-Dichloro-5-methoxy-6-allyl pyrimidine | ClC=1NC(C(=CN1)OC)(CC=C)Cl | C8H10Cl2N2O
reactant | 2,6-dichloro-5-methoxy pyrimidine | ClC1=NC(=C(C=N1)OC)Cl | C5H4Cl2N2O
reactant | 2,6-Dichloro-5-methoxy pyrimidine | 17 mmol, 3.0 g | ClC1=NC(=C(C=N1)OC)Cl | C5H4Cl2N2O
reactant | allyl magnesium bromide | 17 mmol, 1M, 17 mL | C(C=C)[Mg]Br
reactant | DDQ | 17 mmol, 3.9 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2,6-dichloro-5-methoxy-4-allyl pyrimidine | 2.5 g, 67% yield | ClC1=NC(=C(C(=N1)CC=C)OC)Cl | C8H8Cl2N2O
